US06372921B1
A condenser tube, a stirring blade and a thermometer were set to a 500-mL-volume four-necked flask and in this reaction device, 86.9 g (0.82 mol) of o-xylene and 2.17 g (0.013 mol) of AIBN were placed to prepare a mixed solution. After the reaction device was heated to 90° C., chlorine gas was blown therein at a flow rate of 0.378 mol/hr, and the reaction was carried out for 4 hour with stirring. After completion of the reaction, a part of the reaction mixture was sampled. Then, the components of reaction mixture were analyzed by GC. As a result, the conversion of raw material o-xylene was 99.7%, the yield of α,α′-dichloro-o-xylene was 50.5% (based on o-xylene), and the selectivity of α,α′-dichloro-o-xylene was 50.7%. At this time, α-chloro-o-xylene was obtained in a yield of 30% (based on o-xylene), α,α-dichloro-o-xylene was obtained in a yield of 7%, and α,α,α′-trichloro-o-xylene was obtained in a yield of 9%.

reactant | AIBN | 0.013 mol, 2.17 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | chlorine | ClCl | Cl2
reactant | α,α′-dichloro-o-xylene | ClCC=1C(=CC=CC1)CCl | C8H8Cl2
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 0.82 mol, 86.9 g | CC=1C=CC=CC1C | C8H10
product | α-chloro-o-xylene | yield of 30% | ClCC=1C(=CC=CC1)C | C8H9Cl
